US08026366B2
A round bottom flask was charged with 4-amino-2-ethylthiazolo[4,5-c]quinolin-7-ol (1.0 eq., 2.0 mmol), methyl 6-chloronicotinate (1.0 eq., 2.0 mmol), cesium carbonate (3.0 eq. 6.0 mmol), and anhydrous 1,4-dioxane (45 mL). The mixture was heated to reflux for 24 hours. The reaction was monitored by HPLC. The reaction mixture was concentrated to dryness. The resulting solid was then dissolved in methanol and adsorbed onto silica gel (6 g) for purification by HPFC (0-15% CMA in chloroform, 1440 mL). Pure fractions were combined and concentrated; the resulting solid was recrystallized from acetonitrile to provide methyl 6-[(4-amino-2-ethyl[1,3]thiazolo[4,5-c]quinolin-7-yl)oxy]nicotinate as a light peach colored crystalline solid, mp 213-214° C. MS (APCI) m/z 381 (M+H)+. Anal. calcd for C19H16N4O3S: C, 59.99; H, 4.24; N, 14.73. Found: C, 59.76; H, 4.19; N, 14.71.

reactant | 4-amino-2-ethylthiazolo[4,5-c]quinolin-7-ol | 2.0 mmol, 1.0 eq. | NC1=NC=2C=C(C=CC2C2=C1N=C(S2)CC)O | C12H11N3OS
reactant | methyl 6-chloronicotinate | 2.0 mmol, 1.0 eq. | ClC1=NC=C(C(=O)OC)C=C1 | C7H6ClNO2
reactant | cesium carbonate | 6.0 mmol, 3.0 eq | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 45 mL | O1CCOCC1 | C4H8O2
product | methyl 6-[(4-amino-2-ethyl[1,3]thiazolo[4,5-c]quinolin-7-yl)oxy]nicotinate | NC1=NC=2C=C(C=CC2C2=C1N=C(S2)CC)OC2=NC=C(C(=O)OC)C=C2 | C19H16N4O3S
